US08003796B2
Preparation of 1-(4-(methylsulfonyl)phenyl)-4-(1-(5-phenylpyridin-2-yl)piperidin-4-yloxy)pyridin-2(1H)-one
Example 116 was prepared according to procedures described in Example 105 substituting 4-(1-(5-bromopyridin-2-yl)piperidin-4-yloxy)-1-(4-(methylsulfonyl)phenyl)pyridin-2(1H)-one for 4-(1-(5-bromopyrimidin-2-yl)piperidin-4-yloxy)-1-(4-(methylsulfonyl)phenyl)pyridin-2(1H)-one, substituting phenylboronic acid (Aldrich) for cyclopropylboronic acid and substituting DMF for THF. The reaction was heated under microwave conditions at 120° C. for 10 min. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.37 (d, J=2.45 Hz, 1H), 7.95 (d, J=8.31 Hz, 2H), 7.77 (dd, J=9.05, 2.20 Hz, 1H), 7.51-7.63 (m, 5H), 7.34 (t, J=7.58 Hz, 2H), 7.21 (t, J=7.82 Hz, 1H), 6.90 (d, J=8.80 Hz, 1H), 5.98-6.04 (m, 2H), 4.65-4.73 (m, 1H), 3.92-4.00 (m, 2H), 3.26-3.34 (m, 2H), 3.20 (s, 3H), 1.92-2.00 (m, 2H), 1.51-1.61 (m, 2H). MS (ESI) 502 (M+H).

reactant | 4-(1-(5-bromopyridin-2-yl)piperidin-4-yloxy)-1-(4-(methylsulfonyl)phenyl)pyridin-2(1H)-one | BrC=1C=CC(=NC1)N1CCC(CC1)OC1=CC(N(C=C1)C1=CC=C(C=C1)S(=O)(=O)C)=O | C22H22BrN3O4S
reactant | 4-(1-(5-bromopyrimidin-2-yl)piperidin-4-yloxy)-1-(4-(methylsulfonyl)phenyl)pyridin-2(1H)-one | BrC=1C=NC(=NC1)N1CCC(CC1)OC1=CC(N(C=C1)C1=CC=C(C=C1)S(=O)(=O)C)=O | C21H21BrN4O4S
reactant | cyclopropylboronic acid | C1(CC1)B(O)O | C3H7BO2
solvent | THF | C1CCOC1 | C4H8O
product | 1-(4-(methylsulfonyl)phenyl)-4-(1-(5-phenylpyridin-2-yl)piperidin-4-yloxy)pyridin-2(1H)-one | CS(=O)(=O)C1=CC=C(C=C1)N1C(C=C(C=C1)OC1CCN(CC1)C1=NC=C(C=C1)C1=CC=CC=C1)=O | C28H27N3O4S
